US07465795B2
4-amino-N-cyclopropyl-7-fluoro-8-(4-methylpyridin-3-yl)cinnoline-3-carboxamide
Using Method A, 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide (178 mg, 0.48 mmol) and 4-methylpyridine-3-boronic acid (150 mg, 0.96 mmol) were reacted. After purification the title compound (100 mg, 62% yield) was obtained as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.56 (d, J=5.1 Hz, 1 H), 8.47 (s, 1H), 8.46 (bm, 1H), 7.99 (a dd, J=5.2, 9.2 Hz, 1H), 7.58 (t, J=8.7 Hz, 1H), 7.30 (d, J=5.0 Hz, 1H), 2.96 (m, 1H), 2.11 (s, 3H), 0.88 (m, 2H), 0.65 (m, 2H). MS APCI, m/z=338, HPLC 1.68 min.

reactant | 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide | 0.48 mmol, 178 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NC1CC1 | C12H10FIN4O
reactant | 4-methylpyridine-3-boronic acid | 0.96 mmol, 150 mg | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
product | 4-amino-N-cyclopropyl-7-fluoro-8-(4-methylpyridin-3-yl)cinnoline-3-carboxamide | 100 mg, 62% yield | NC1=C(N=NC2=C(C(=CC=C12)F)C=1C=NC=CC1C)C(=O)NC1CC1 | C18H16FN5O
